US04771051
Ethyl 4,5-dihydro-4-methyl-5-oxo-6-iodo-imidazo(1,5-a)-quinazoline-3-carboxylate.
M.p. 266°-267° C. by reaction between 3-methyl-5-iodo-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline and ethyl isocyanoacetate.

reactant | 3-methyl-5-iodo-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline | CN1C(NC2=CC=CC(=C2C1=O)I)=O | C9H7IN2O2
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | Ethyl 4,5-dihydro-4-methyl-5-oxo-6-iodo-imidazo(1,5-a)-quinazoline-3-carboxylate | CN1C=2N(C3=CC=CC(=C3C1=O)I)C=NC2C(=O)OCC | C14H12IN3O3
